US07834030B2
To a solution of 3.74 g of (−)-(R)-methoxy-phenyl-acetic acid (R)-1-[4-methyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-yl]-propyl ester in 19 mL of tetrahydrofuran and 19 mL of ethanol at 0° C. was dropwise added 24.5 mL of a molar solution of sodium hydroxide in 20.4 mL of water. The resulting mixture was stirred at 0° C. for 15 minutes then 24.5 mL of a 5N solution of hydrochloric acid in 20.4 mL of water was added. After removal of the organic solvents under vacuum, the mixture was extracted with ethyl acetate, filtered through a silicone treated paper filter and concentrated under reduced pressure. The residue was purified by column chromatography on silica gel (dichloromethane 90/ethyl acetate 10) to give 2.09 g of (+)-(R)-1-[4-methyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-yl]-propan-1-ol.

reactant | (−)-(R)-methoxy-phenyl-acetic acid (R)-1-[4-methyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-yl]-propyl ester | 3.74 g | CC=1N=C(SC1[C@@H](CC)OC([C@@H](C1=CC=CC=C1)OC)=O)C1=CC=C(C=C1)C(F)(F)F | C23H22F3NO3S
reactant | sodium hydroxide | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | 19 mL | O1CCCC1 | C4H8O
solvent | ethanol | 19 mL | C(C)O | C2H6O
solvent | water | 20.4 mL | O | H2O
solvent | water | 20.4 mL | O | H2O
product | (+)-(R)-1-[4-methyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-yl]-propan-1-ol | 2.09 g | CC=1N=C(SC1[C@@H](CC)O)C1=CC=C(C=C1)C(F)(F)F | C14H14F3NOS
